* File: /home/eng/s/sxv240035/cad/gf65/tutorial/NOR3/HSPICE/NOR3.pex.sp.pex
* Created: Thu Dec  5 19:48:33 2024
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NOR3%VSS 1 6 9 13 19 23 27 28
c57 9 0 1.28186e-19
r58 13 28 10
r59 11 23 0.0199415
r60 11 13 0.988031
r61 10 19 0.0256162
r62 9 23 0.0256162
r63 9 10 0.750981
r64 6 27 10
r65 4 19 0.0199415
r66 4 6 0.988031
r67 1 19 15
.ends

.subckt PM_NOR3%OUT 3 6 7 10 14 15 17 23 25 27 30 32 33 35
c71 6 0 1.03431e-20
r72 27 30 1.7
r73 24 30 0.0515171
r74 23 30 0.110105
r75 20 32 30
r76 17 20 0.388606
r77 17 32 10
r78 15 24 0.0803212
r79 15 17 0.563479
r80 14 23 0.0803212
r81 13 25 0.0363272
r82 13 14 0.255508
r83 10 35 10
r84 8 25 0.0363272
r85 8 10 0.339059
r86 6 25 0.00944082
r87 6 7 0.919579
r88 3 33 10
r89 1 7 0.0479332
r90 1 3 0.339059
.ends

.subckt PM_NOR3%VDD 1 6 15 20
r30 10 20 30
r31 6 10 0.388606
r32 6 20 10
r33 4 15 0.0185406
r34 4 10 1.40675
r35 1 15 30
.ends

.subckt PM_NOR3%A 4 6 10 12 14 17 23
c41 10 0 2.82662e-19
c42 6 0 2.67492e-19
r43 20 23 4.21922
r44 17 20 25
r45 14 17 1.7
r46 6 12 36.8926
r47 5 23 3.83544
r48 5 6 35.2529
r49 4 23 3.83544
r50 3 10 26.6446
r51 3 4 53.8017
.ends

.subckt PM_NOR3%B 4 6 10 12 14 17 23
c51 17 0 1.83183e-19
c52 14 0 9.46516e-20
c53 10 0 3.08952e-19
c54 6 0 2.67492e-19
r55 20 23 4.21922
r56 17 20 25
r57 14 17 1.7
r58 6 12 36.8926
r59 5 23 3.83544
r60 5 6 35.2529
r61 4 23 3.83544
r62 3 10 26.6446
r63 3 4 53.8017
.ends

.subckt PM_NOR3%C 4 6 10 12 14 17 23
c52 17 0 1.7284e-19
c53 14 0 9.46516e-20
c54 10 0 1.54476e-19
r55 20 23 4.21922
r56 17 20 25
r57 14 17 1.7
r58 6 12 36.8926
r59 5 23 3.83544
r60 5 6 35.2529
r61 4 23 3.83544
r62 3 10 26.6446
r63 3 4 53.8017
.ends

